US09085555B2
(3-Carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid
To a solution of (3-carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid methyl ester Example 592 (18 mg, 0.032 mmol) in a mixture of THF (2 mL) and water (0.2 mL) was added 1N NaOH (0.064 mL), followed by stirring at RT for 4 h. The reaction mixture was partitioned between CH2Cl2 and water. The aqueous phase was adjusted to pH=2 by addition of 1N HCl, followed by extraction with CH2Cl2 (3×). The combined organics were dried (phase separator) and concentrated under reduced pressure to afford the title compound as a white solid. MS: 549 [M+H]+; tR (HPLC conditions c): 3.74 min.

reactant | (3-carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid methyl ester | COC(COC1=CC=C2C(=CN(C2=C1)CC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O)C(N)=O)=O | C26H25ClF2N4O6
reactant | NaOH | 1N, 0.064 mL | [OH-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | water | 0.2 mL | O | H2O
product | (3-Carbamoyl-1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-1H-indol-6-yloxy)-acetic acid | C(N)(=O)C1=CN(C2=CC(=CC=C12)OCC(=O)O)CC(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O | C25H23ClF2N4O6
